US08975254B2
b) N—((S)-2-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propyl)-2-(1-hydroxyethyl)oxazole-4-carboxamide
Sodium borohydride (0.055 g, 1.462 mmol) was added into a flask and the atmosphere was replaced with nitrogen. Dry ethanol was added and the reaction mixture was cooled to 0° C. (S)-2-acetyl-N-(2-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propyl)oxazole-4-carboxamide (0.301 g, 0.731 mmol) was added and the reaction mixture was warmed slowly to RT while stirring overnight. The crude product was cooled to 0° C., the pH was adjusted to 6 and the mixture was evaporated. 5% of methanol/DCM was added and the crude product was washed with 1M NaHCO3 and with water. The mixture was dried and evaporated. Yield 94%. 1H-NMR (400 MHz; CDCl3): δ 1.57 (d, 3H), 1.61 (d, 3H), 3.78-3.83 (m, 1H), 3.87-3.94 (m, 1H), 4.59-4.68 (m, 1H), 4.87-4.96 (m, 1H), 6.43 (d, 1H), 7.34-7.42 (m, 1H), 7.51 (d, 1H), 7.54-7.61 (m, 2H), 8.14 (s, 1H).

reactant | Sodium borohydride | 1.462 mmol, 0.055 g | [BH4-].[Na+]
reactant | (S)-2-acetyl-N-(2-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propyl)oxazole-4-carboxamide | 0.731 mmol, 0.301 g | C(C)(=O)C=1OC=C(N1)C(=O)NC[C@H](C)N1N=C(C=C1)C1=C(C(=C(C=C1)C#N)Cl)C | C20H18ClN5O3
solvent | ethanol | C(C)O | C2H6O
product | N—((S)-2-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propyl)-2-(1-hydroxyethyl)oxazole-4-carboxamide | Yield 94% | ClC=1C(=C(C=CC1C#N)C1=NN(C=C1)[C@H](CNC(=O)C=1N=C(OC1)C(C)O)C)C | C20H20ClN5O3
